US04036856
3-(Dimethylamino)-1-decyn-5-one
A mixture of 1-(dimethylamino)-1-octen-3-one (4.0 g), described in Example 37, and lithiumacetylide-ethyleneamine (4.0 g) in dry dioxane (25 ml) is stirred at room temperature for 45 min. The mixture is added to ice. The mixture is extracted with ether. The extract is dried (Na2SO4) and then evaporated. The residue is distilled to afford the title compound, b.p. 80°-85° C.

reactant | 1-(dimethylamino)-1-octen-3-one | 4.0 g | CN(C=CC(CCCCC)=O)C | C10H19NO
reactant | lithiumacetylide ethyleneamine | 4.0 g | [C-]#[C-].[Li+].[Li+].C=CN
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(Dimethylamino)-1-decyn-5-one | CN(C(C#C)CC(CCCCC)=O)C | C12H21NO
